US05093328
To a solution of (2S,4R)-1-benzyloxycarbonyl-2-hydroxymethyl-4-t-butyldimethylsilyloxypyrrolidine (39.96 in dry pyridine (40 ml), acetic anhydride (40 ml) was added, and the resultant mixture was allowed to stand overnight. The reaction mixture was diluted with ethyl acetate, washed with aqueous sodium chloride solution, dilute hydrochloric acid, aqueous sodium chloride solution, aqueous sodium bicarbonate solution and aqueous sodium chloride solution in order and dried over magnesium sulfate. Removal of the solvent gave (2S,4R)-1-benzyloxycarbonyl-2-acetoxymethyl-4-t-butyldimethylsilyloxypyrrolidine.

reactant | (2S,4R)-1-benzyloxycarbonyl-2-hydroxymethyl-4-t-butyldimethylsilyloxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CO | C19H31NO4Si
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-1-benzyloxycarbonyl-2-acetoxymethyl-4-t-butyldimethylsilyloxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COC(C)=O | C21H33NO5Si
